US04243666
1-Benzyloxycarbonyl-4-[N-(2-methoxyethyl)carbamoyl]piperidine [5.76 g, m.p. 85°-86°, Analysis %: C, 63.9; H, 7.5; N, 8.4; Calculated: C, 63.7; H, 7.6; N, 8.8; prepared similarly to Preparation C but using toluene in place of chloroform and starting from 1-benzyloxycarbonylpiperidine-4-carboxylic acid chloride and 2-methoxyethylamine] in ethanol (75 ml) was hydrogenated over 5% palladium on charcoal at 50 p.s.i./50°. The catalyst was removed by filtration, and the filtrate evaporated to give 4-[N-(2-methoxyethyl)carbamoyl]piperidine as an oil which solidified on standing. I.r. and n.m.r. spectra were consistent with this structure and the product was used in Example 7 without further purification.

reactant | 1-Benzyloxycarbonyl-4-[N-(2-methoxyethyl)carbamoyl]piperidine | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(NCCOC)=O | C17H24N2O4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 1-benzyloxycarbonylpiperidine-4-carboxylic acid chloride | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)Cl | C14H16ClNO3
reactant | 2-methoxyethylamine | COCCN | C3H9NO
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 4-[N-(2-methoxyethyl)carbamoyl]piperidine | COCCNC(=O)C1CCNCC1 | C9H18N2O2
